*
*|DSPF 1.5
*
*|DATE "Wed May  8 12:09:28 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "XOR3XL"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  XOR3XL B A Y C
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET B 9.8681e-16
*|P (B X 0 0.5000 1.0450)
*|I (Mmn9:g Mmn9 g X 0 0.5225 0.5050)
*|I (Mmn1:g Mmn1 g X 0 1.8475 0.3850)
*|I (Mmn6:g Mmn6 g X 0 2.3875 0.3850)
*|I (Mmp9:g Mmp9 g X 0 0.5225 1.1800)
*|I (Mmp2:g Mmp2 g X 0 1.4775 1.3250)
*|I (Mmp5:g Mmp5 g X 0 1.9775 1.1650)
*|S (B:2 1.4400 0.8325)
*|S (B:3 0.5225 0.8325)
*|S (B:4 0.4850 0.7000)
*|S (B:5 1.4400 0.7800)
*|S (B:8 2.0650 0.7100)
*|S (B:9 1.9775 0.7375)
*|S (B:10 1.8475 0.5800)
*|S (B:11 1.7450 0.5800)
*|S (B:15 2.3500 0.6550)
C1 Mmp5:g VSS 7.12452e-17
C2 Mmp2:g VSS 6.23712e-17
C3 Mmp9:g VSS 4.77929e-17
C4 Mmn6:g VSS 4.65989e-17
C5 Mmn1:g VSS 2.45532e-17
C6 Mmn9:g VSS 3.63274e-17
C7 B:10 VSS 2.3833e-17
C8 B:9 VSS 2.11541e-17
C9 B:3 VSS 6.16654e-17
C10 B:2 VSS 1.07687e-16
C11 B:4 VSS 8.63531e-17
C12 B:5 VSS 6.42224e-17
C13 B:11 VSS 9.13714e-17
C14 B:8 VSS 9.35014e-17
C15 B:15 VSS 7.85212e-17
C16 B VSS 6.96109e-17
Rl1 B:2 B:5 48.915199 $W=0.114
Rl2 B:3 B:4 35.004822 $W=0.039
Rl3 B:2 B:3 327.989563 $W=0.039
Rl4 B:8 B:9 64.156075 $W=0.039
Rl5 B:10 B:11 53.303795 $W=0.094
Rl6 B:9 B:10 95.845863 $W=0.039
Rl7 B:4 Mmn9:g 24.232828 $W=0.039
Rl8 B:10 Mmn1:g 34.329510 $W=0.039
Rl9 Mmn6:g B:15 98.078979 $W=0.039
Rl10 B:3 Mmp9:g 72.310455 $W=0.039
Rl11 Mmp2:g B:2 131.457550 $W=0.039
Rl12 B:9 Mmp5:g 97.758423 $W=0.039
Rk13 B:15 B:8 0.166068 $W=0.1
Rk14 B:5 B:11 0.258395 $W=0.1
Rk15 B:4 B 45.207531 $W=0.1
*
*|NET A 2.19326e-16
*|P (A X 0 0.1000 0.8550)
*|I (Mmn10:g Mmn10 g X 0 0.2475 0.5050)
*|I (Mmp10:g Mmp10 g X 0 0.2475 1.1800)
*|S (A:2 0.2475 0.7100)
*|S (A:3 0.1450 0.7100)
C17 Mmp10:g VSS 4.3791e-17
C18 Mmn10:g VSS 3.02549e-17
C19 A:2 VSS 2.17283e-17
C20 A:3 VSS 4.63114e-17
C21 A VSS 7.72406e-17
Rl16 A:2 A:3 53.303795 $W=0.094
Rl17 A:2 Mmn10:g 38.175663 $W=0.039
Rl18 Mmp10:g A:2 117.021820 $W=0.039
Rk19 A:3 A 0.087248 $W=0.1
*
*|NET Y 8.68236e-17
*|P (Y X 0 4.3000 0.6650)
*|I (Mmn7:d Mmn7 d X 0 4.2750 0.5650)
*|I (Mmp7:d Mmp7 d X 0 4.2750 1.1125)
C22 Mmp7:d VSS 3.59021e-17
C23 Y VSS 5.09216e-17
Rk20 Y Mmn7:d 75.032272 $W=0.125
Rk21 Mmp7:d Y 62.280602 $W=0.09
*
*|NET C 3.85953e-16
*|P (C X 0 3.3000 0.8550)
*|I (Mmn4:g Mmn4 g X 0 3.0675 0.4750)
*|I (Mmn8:g Mmn8 g X 0 3.8175 0.5650)
*|I (Mmp3:g Mmp3 g X 0 3.3325 1.1650)
*|I (Mmp8:g Mmp8 g X 0 3.8175 1.1650)
*|S (C:2 2.9850 0.6950)
*|S (C:4 3.8175 0.9325)
*|S (C:5 3.3050 0.9050)
C24 Mmp8:g VSS 2.90607e-17
C25 Mmp3:g VSS 3.47766e-17
C26 Mmn8:g VSS 4.46016e-17
C27 Mmn4:g VSS 4.04697e-17
C28 C:4 VSS 3.87822e-17
C29 C:2 VSS 7.45354e-17
C30 C:5 VSS 8.03897e-17
C31 C VSS 4.33372e-17
Rl22 C:4 C:5 172.553497 $W=0.039
Rl23 Mmn4:g C:2 92.589981 $W=0.039
Rl24 C:4 Mmn8:g 103.079681 $W=0.039
Rl25 C:5 Mmp3:g 26.155905 $W=0.039
Rl26 Mmp8:g C:4 28.079685 $W=0.039
Rk27 C C:5 45.020325 $W=0.13
Rk28 C C:2 0.308908 $W=0.0885
*
*|NET n62 9.44121e-16
*|I (Mmn10:d Mmn10 d X 0 0.1400 0.5050)
*|I (Mmn0:g Mmn0 g X 0 1.1375 0.3850)
*|I (Mmn1:d Mmn1 d X 0 1.9850 0.3850)
*|I (Mmp10:d Mmp10 d X 0 0.1550 1.1800)
*|I (Mmp0:g Mmp0 g X 0 1.2125 1.3250)
*|I (Mmp1:s Mmp1 s X 0 1.8600 1.1650)
*|S (n62:2 0.8150 0.3300)
*|S (n62:4 0.9200 1.1300)
*|S (n62:7 1.8750 1.1000)
*|S (n62:8 0.3050 1.2450)
*|S (n62:10 0.1150 0.4700)
C32 Mmp1:s VSS 1.55531e-16
C33 Mmp0:g VSS 4.78613e-17
C34 Mmp10:d VSS 2.71076e-17
C35 Mmn1:d VSS 9.44027e-17
C36 Mmn0:g VSS 6.64277e-17
C37 Mmn10:d VSS 1.13011e-16
C38 n62:8 VSS 1.63458e-16
C39 n62:2 VSS 1.15219e-16
C40 n62:4 VSS 1.61103e-16
Rl29 Mmn0:g n62:2 250.584106 $W=0.039
Rl30 Mmp0:g n62:4 177.902328 $W=0.039
Rk31 n62:7 n62:4 0.700185 $W=0.08
Rk32 n62:4 n62:8 0.719784 $W=0.09
Rk33 n62:10 n62:2 0.569161 $W=0.08
Rk34 n62:8 n62:10 0.690832 $W=0.08
Rk35 Mmn10:d n62:10 75.000000 $W=0.08
Rk36 Mmn1:d n62:7 75.530907 $W=0.08
Rk37 n62:8 Mmp10:d 62.113033 $W=0.1
Rk38 Mmp1:s n62:7 62.000000 $W=0.09
*
*|NET n61 7.25149e-16
*|I (Mmn9:d Mmn9 d X 0 0.6300 0.5050)
*|I (Mmn2:g Mmn2 g X 0 1.4025 0.3850)
*|I (Mmn5:g Mmn5 g X 0 2.1225 0.3850)
*|I (Mmp9:d Mmp9 d X 0 0.6675 1.1800)
*|I (Mmp1:g Mmp1 g X 0 1.7425 1.1650)
*|I (Mmp6:g Mmp6 g X 0 2.2275 1.2700)
*|S (n61:4 1.4025 0.6475)
*|S (n61:5 0.7300 0.7000)
C41 Mmp6:g VSS 1.01402e-16
C42 Mmp1:g VSS 9.48787e-17
C43 Mmp9:d VSS 8.30896e-17
C44 Mmn5:g VSS 1.01079e-16
C45 Mmn2:g VSS 3.81261e-17
C46 Mmn9:d VSS 3.73773e-17
C47 n61:4 VSS 1.25132e-16
C48 n61:5 VSS 1.44065e-16
Rl39 n61:4 n61:5 286.763977 $W=0.039
Rl40 n61:4 Mmn2:g 57.373802 $W=0.039
Rl41 Mmp1:g n61:4 241.851227 $W=0.039
Rl42 Mmn5:g Mmp6:g 255.702957 $W=0.039
Rl43 Mmp6:g Mmp1:g 284.181030 $W=0.039
Rk44 Mmn9:d n61:5 75.104813 $W=0.1
Rk45 n61:5 Mmp9:d 62.299660 $W=0.1
*
*|NET n11 7.37596e-16
*|I (Mmn0:d Mmn0 d X 0 1.3550 0.3850)
*|I (Mmn6:s Mmn6 s X 0 2.5200 0.3400)
*|I (Mmp0:d Mmp0 d X 0 1.3450 1.3250)
*|I (Mmp6:d Mmp6 d X 0 2.3600 1.2975)
*|S (n11:1 2.6800 1.4200)
*|S (n11:2 2.6800 0.2600)
*|S (n11:4 2.3600 1.4200)
*|S (n11:7 2.5200 0.2600)
C49 Mmp6:d VSS 1.27876e-16
C50 Mmp0:d VSS 1.04554e-16
C51 Mmn6:s VSS 1.38043e-16
C52 Mmn0:d VSS 1.39005e-16
C53 n11:2 VSS 1.01152e-16
C54 n11:1 VSS 1.26966e-16
Rl46 n11:1 n11:2 266.032043 $W=0.094
Rk47 n11:1 n11:4 0.237603 $W=0.09
Rk48 n11:2 n11:7 0.118634 $W=0.0835
Rk49 n11:7 Mmn0:d 75.963150 $W=0.0835
Rk50 Mmn6:s n11:7 75.000000 $W=0.0835
Rk51 n11:4 Mmp0:d 62.736198 $W=0.09
Rk52 Mmp6:d n11:4 62.000000 $W=0.09
*
*|NET n44 7.59985e-16
*|I (Mmn2:s Mmn2 s X 0 1.6250 0.3850)
*|I (Mmn4:d Mmn4 d X 0 2.9600 0.4750)
*|I (Mmp2:d Mmp2 d X 0 1.6950 1.1650)
*|I (Mmp4:s Mmp4 s X 0 3.0800 1.1650)
C55 Mmp4:s VSS 2.54775e-16
C56 Mmp2:d VSS 3.31044e-16
C57 Mmn4:d VSS 6.43026e-17
C58 Mmn2:s VSS 1.09863e-16
Rk53 Mmp2:d Mmn2:s 137.846191 $W=0.08
Rk54 Mmp4:s Mmn4:d 137.531372 $W=0.0885
Rk55 Mmp4:s Mmp2:d 125.098915 $W=0.08
*
*|NET n56 5.89022e-16
*|I (Mmn5:s Mmn5 s X 0 2.2550 0.3850)
*|I (Mmn3:d Mmn3 d X 0 3.4650 0.5200)
*|I (Mmp5:d Mmp5 d X 0 2.1800 1.2700)
*|I (Mmp3:s Mmp3 s X 0 3.4400 1.1650)
*|S (n56:3 3.4650 1.1000)
*|S (n56:4 2.5400 1.1000)
C59 Mmp3:s VSS 1.5273e-16
C60 Mmp5:d VSS 6.86067e-17
C61 Mmn3:d VSS 8.40754e-17
C62 Mmn5:s VSS 1.11807e-16
C63 n56:4 VSS 1.71804e-16
Rk56 n56:3 n56:4 0.725842 $W=0.08
Rk57 n56:4 Mmn5:s 75.667809 $W=0.08
Rk58 Mmn3:d n56:3 75.390503 $W=0.08
Rk59 n56:4 Mmp5:d 62.338997 $W=0.09
Rk60 Mmp3:s n56:3 62.000000 $W=0.08
*
*|NET n50 4.98973e-16
*|I (Mmn4:s Mmn4 s X 0 3.2000 0.4750)
*|I (Mmn7:g Mmn7 g X 0 4.1675 0.5650)
*|I (Mmp4:d Mmp4 d X 0 3.2300 1.1650)
*|I (Mmp7:g Mmp7 g X 0 4.1675 1.1125)
*|S (n50:2 4.1300 0.8650)
*|S (n50:4 3.8750 0.8950)
C64 Mmp7:g VSS 2.57878e-17
C65 Mmp4:d VSS 9.75605e-17
C66 Mmn7:g VSS 2.67141e-17
C67 Mmn4:s VSS 9.77154e-17
C68 n50:4 VSS 1.91732e-16
C69 n50:2 VSS 5.94638e-17
Rl61 n50:2 Mmn7:g 64.617447 $W=0.039
Rl62 Mmp7:g n50:2 41.540520 $W=0.039
Rk63 n50:2 n50:4 45.154629 $W=0.09
Rk64 n50:4 Mmn4:s 75.812256 $W=0.08
Rk65 n50:4 Mmp4:d 62.738052 $W=0.09
*
*|NET n60 3.60173e-16
*|I (Mmn3:g Mmn3 g X 0 3.3325 0.4750)
*|I (Mmn8:d Mmn8 d X 0 3.7100 0.5650)
*|I (Mmp4:g Mmp4 g X 0 3.1275 1.1650)
*|I (Mmp8:d Mmp8 d X 0 3.7100 1.1650)
*|S (n60:1 3.6550 0.7600)
*|S (n60:2 3.3325 0.7725)
C70 Mmp8:d VSS 6.51829e-17
C71 Mmp4:g VSS 6.58879e-17
C72 Mmn8:d VSS 4.83363e-17
C73 Mmn3:g VSS 3.65917e-17
C74 n60:2 VSS 5.53491e-17
C75 n60:1 VSS 8.8825e-17
Rl66 n60:1 n60:2 151.100769 $W=0.039
Rl67 n60:2 Mmn3:g 70.835342 $W=0.039
Rl68 n60:2 Mmp4:g 159.593292 $W=0.039
Rk69 n60:1 Mmn8:d 75.091644 $W=0.1
Rk70 Mmp8:d n60:1 62.181713 $W=0.1
*
*Instance Section
*
Mmn10	Mmn10:d	Mmn10:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.19U
+ AD=0.0323P	AS=0.0833P	PD=0.72U	PS=1.5U
+ fw=1.9e-07 sa=1.7e-07 sb=4.45e-07 sca=13.8407 scb=0.0143094 scc=0.000839093
Mmn9	Mmn9:d	Mmn9:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.19U
+ AD=0.0323P	AS=0.0833P	PD=0.72U	PS=1.5U
+ fw=1.9e-07 sa=4.45e-07 sb=1.7e-07 sca=13.8407 scb=0.0143094 scc=0.000839093
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.19U
+ AD=0.0526P	AS=0.0575P	PD=1U	PS=1.14U
+ fw=1.9e-07 sa=1.7e-07 sb=1.42e-06 sca=8.3036 scb=0.00616975 scc=0.000110509
Mmn2	Mmn0:d	Mmn2:g	Mmn2:s	VSS	g45n1hvt	L=0.045U	W=0.19U
+ AD=0.0526P	AS=0.076P	PD=1U	PS=1.18U
+ fw=1.9e-07 sa=4.35e-07 sb=1.155e-06 sca=8.3036 scb=0.00616975 scc=0.000110509
Mmn1	Mmn1:d	Mmn1:g	Mmn2:s	VSS	g45n1hvt	L=0.045U	W=0.19U
+ AD=0.0437P	AS=0.076P	PD=0.84U	PS=1.18U
+ fw=1.9e-07 sa=8.8e-07 sb=7.1e-07 sca=8.3036 scb=0.00616975 scc=0.000110509
Mmn5	Mmn1:d	Mmn5:g	Mmn5:s	VSS	g45n1hvt	L=0.045U	W=0.19U
+ AD=0.0437P	AS=0.0418P	PD=0.84U	PS=0.82U
+ fw=1.9e-07 sa=1.155e-06 sb=4.35e-07 sca=8.3036 scb=0.00616975 scc=0.000110509
Mmn6	Mmn5:s	Mmn6:g	Mmn6:s	VSS	g45n1hvt	L=0.045U	W=0.19U
+ AD=0.0418P	AS=0.0431P	PD=0.82U	PS=0.9U
+ fw=1.9e-07 sa=1.42e-06 sb=1.7e-07 sca=8.3036 scb=0.00616975 scc=0.000110509
Mmn4	Mmn4:d	Mmn4:g	Mmn4:s	VSS	g45n1hvt	L=0.045U	W=0.19U
+ AD=0.0323P	AS=0.0418P	PD=0.72U	PS=0.82U
+ fw=1.9e-07 sa=1.7e-07 sb=4.35e-07 sca=11.8451 scb=0.0117279 scc=0.00051251
Mmn3	Mmn3:d	Mmn3:g	Mmn4:s	VSS	g45n1hvt	L=0.045U	W=0.19U
+ AD=0.0431P	AS=0.0418P	PD=0.9U	PS=0.82U
+ fw=1.9e-07 sa=4.35e-07 sb=1.7e-07 sca=11.8451 scb=0.0117279 scc=0.00051251
Mmn8	Mmn8:d	Mmn8:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.19U
+ AD=0.0323P	AS=0.10475P	PD=0.72U	PS=1.77U
+ fw=1.9e-07 sa=1.7e-07 sb=5.2e-07 sca=20.6114 scb=0.0205722 scc=0.00215666
Mmn7	Mmn7:d	Mmn7:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.19U
+ AD=0.0323P	AS=0.10475P	PD=0.72U	PS=1.77U
+ fw=1.9e-07 sa=5.2e-07 sb=1.7e-07 sca=20.6114 scb=0.0205722 scc=0.00215666
Mmp10	Mmp10:d	Mmp10:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0434P	AS=0.1067P	PD=0.9U	PS=1.67U
+ fw=3.1e-07 sa=1.4e-07 sb=5.2e-07 sca=23.5711 scb=0.0270642 scc=0.00135402
Mmp9	Mmp9:d	Mmp9:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.31U
+ AD=0.07595P	AS=0.1067P	PD=1.11U	PS=1.67U
+ fw=3.1e-07 sa=4.15e-07 sb=2.45e-07 sca=15.89 scb=0.0145486 scc=0.000688173
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.31U
+ AD=0.0682P	AS=0.0525P	PD=1.06U	PS=1.26U
+ fw=3.1e-07 sa=1.1129e-07 sb=7.61774e-07 sca=10.5719 scb=0.0081746 scc=0.000117241
Mmp2	Mmp2:d	Mmp2:g	Mmp0:d	VDD	g45p1hvt	L=0.045U	W=0.31U
+ AD=0.0918P	AS=0.0682P	PD=1.64U	PS=1.06U
+ fw=3.1e-07 sa=3.7629e-07 sb=4.96774e-07 sca=10.5719 scb=0.0081746 scc=0.000117241
Mmp1	Mmp2:d	Mmp1:g	Mmp1:s	VDD	g45p1hvt	L=0.045U	W=0.31U
+ AD=0.0918P	AS=0.0589P	PD=1.64U	PS=1U
+ fw=3.1e-07 sa=3.92581e-07 sb=5.65242e-07 sca=14.8314 scb=0.0138806 scc=0.000865287
Mmp5	Mmp5:d	Mmp5:g	Mmp1:s	VDD	g45p1hvt	L=0.045U	W=0.31U
+ AD=0.0688P	AS=0.0589P	PD=1.24U	PS=1U
+ fw=3.1e-07 sa=6.27581e-07 sb=3.30242e-07 sca=14.8314 scb=0.0138806 scc=0.000865287
Mmp6	Mmp6:d	Mmp6:g	Mmp5:d	VDD	g45p1hvt	L=0.045U	W=0.31U
+ AD=0.0593P	AS=0.0688P	PD=1.07U	PS=1.24U
+ fw=3.1e-07 sa=6.89597e-07 sb=1.7e-07 sca=10.9702 scb=0.00883933 scc=0.000174052
Mmp4	Mmp4:d	Mmp4:g	Mmp4:s	VDD	g45p1hvt	L=0.045U	W=0.31U
+ AD=0.0496P	AS=0.0683P	PD=0.94U	PS=1.22U
+ fw=3.1e-07 sa=1.7e-07 sb=3.75e-07 sca=14.8314 scb=0.0138806 scc=0.000865287
Mmp3	Mmp4:d	Mmp3:g	Mmp3:s	VDD	g45p1hvt	L=0.045U	W=0.31U
+ AD=0.0496P	AS=0.0527P	PD=0.94U	PS=0.96U
+ fw=3.1e-07 sa=3.75e-07 sb=1.7e-07 sca=14.8314 scb=0.0138806 scc=0.000865287
Mmp8	Mmp8:d	Mmp8:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.31U
+ AD=0.0527P	AS=0.1265P	PD=0.96U	PS=1.85U
+ fw=3.1e-07 sa=1.7e-07 sb=4.30242e-07 sca=16.2999 scb=0.0148905 scc=0.000867022
Mmp7	Mmp7:d	Mmp7:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.205U
+ AD=0.03485P	AS=0.1265P	PD=0.75U	PS=1.85U
+ fw=2.05e-07 sa=5.2e-07 sb=1.7e-07 sca=28.0221 scb=0.032906 scc=0.00213116
.ENDS
.END
